US07323475B2
a) {5-[4-(4-Fluoro-phenoxy)-phenoxy]-1,3-dioxo-1,3-dihydro-isoindol-2-yl}-acetic acid ethyl ester
Prepared in analogy to Example D-137 a) by reacting (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester with 4-(4-fluoro-phenoxy)-phenol. 1H NMR (200 MHz, CDCl3) δ 7.80 (d, J=8.0 Hz, 1H), 7.31 (m, 2H), 7.06-7.01 (m, 8H), 4.39 (s, 2H), 4.21 (q, J=7.2, 2H), 1.30 (t, J=7.3, 3H).

reactant | (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O | C12H10N2O6
reactant | 4-(4-fluoro-phenoxy)-phenol | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
product | {5-[4-(4-Fluoro-phenoxy)-phenoxy]-1,3-dioxo-1,3-dihydro-isoindol-2-yl}-acetic acid ethyl ester | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)OC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O)=O | C24H18FNO6
